US04354027
A. 1-Methyl-3-(2'-(2-methylpropanoyl)diazanyl)-6-methoxy-1H-quinoxalin-2-one
To a solution of 3-hydrazino-1-methyl-6-methoxy-1H-quinoxalin-2-one (46.2 mmol) and triethylamine (5.6 g., 55.4 mmol) in 500 ml. of dioxane was added dropwise 2-methylpropanoyl chloride (5.91 g., 55.4 mmol) and the mixture stirred at room temperature for 1.5 hours. The dioxane was then removed under vacuum and the residue washed with water and ether, filtered, and dried at 65° for three hours to yield crude product.

reactant | 3-hydrazino-1-methyl-6-methoxy-1H-quinoxalin-2-one | 46.2 mmol | N(N)C=1C(N(C2=CC=C(C=C2N1)OC)C)=O | C10H12N4O2
reactant | triethylamine | 55.4 mmol, 5.6 g | C(C)N(CC)CC | C6H15N
reactant | 2-methylpropanoyl chloride | 55.4 mmol, 5.91 g | CC(C(=O)Cl)C | C4H7ClO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-Methyl-3-(2'-(2-methylpropanoyl)diazanyl)-6-methoxy-1H-quinoxalin-2-one | CN1C(C(=NC2=CC(=CC=C12)OC)NNC(C(C)C)=O)=O | C14H18N4O3
